US05403847
2- [(4-Methoxyphenethyl)aminomethyl]-1,2,3,4-tetrahydronaphthalene (Compound 11)
A solution of 2-bromomethyl-1,2,3,4-tetrahydronaphthalene (1.33 g, 5.91 mmol) and 4-methoxyphenethylamine (1.79 g, 11.8 mmol) in 50 ml of EtOH was refluxed for 48 hours. After removal of EtOH in vacuo, the residue was dissolved in 100 ml of CHCl3, washed with 10% K2CO3, H2O, sat'd brine, and then dried over Na2SO4. Filtration followed by evaporation of solvent gave a yellow oil, which was purified by chromatography (SiO2, MeOH:CHCl3, 5:95) to a give a yellowish oil (1.03 g, 58.9%). The product was converted to HCl salt, crystallization with MeOH/Et2O gave a white powder. mp 274°-275° C.; Calcd for C20H25NO.HCl: C 72.37, H 7.91,N 4.22; Found C 72.40, H 7.76,N 4.13.

reactant | 2-bromomethyl-1,2,3,4-tetrahydronaphthalene | 5.91 mmol, 1.33 g | BrCC1CC2=CC=CC=C2CC1 | C11H13Br
reactant | 4-methoxyphenethylamine | 11.8 mmol, 1.79 g | COC1=CC=C(CCN)C=C1 | C9H13NO
solvent | EtOH | 50 ml | CCO | C2H6O
product | 2- [(4-Methoxyphenethyl)aminomethyl]-1,2,3,4-tetrahydronaphthalene | 1.03 g, 58.9% | COC1=CC=C(CCNCC2CC3=CC=CC=C3CC2)C=C1 | C20H25NO
